US07375087B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-bromophenyl)methyl]-5-isopropyl-1H-pyrazole
To a suspension of 4-[(4-bromophenyl)methyl]-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one (5.0 g) in dichloromethane (50 mL) were added acetobromo-α-D-glucose (7.0 g), benzyltri(n-butyl)ammonium chloride (5.3 g) and 5 mol/L aqueous sodium hydroxide solution (8.5 mL), and the mixture was stirred at room temperature overnight. The organic layer was separated, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1) to give the title compound (4.12 g).

reactant | 4-[(4-bromophenyl)methyl]-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one | 5.0 g | BrC1=CC=C(C=C1)CC=1C(NNC1C(C)C)=O | C13H15BrN2O
reactant | acetobromo-α-D-glucose | 7.0 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | sodium hydroxide | 5 mol/L, 8.5 mL | [OH-].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | benzyltri(n-butyl)ammonium chloride | 5.3 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-bromophenyl)methyl]-5-isopropyl-1H-pyrazole | 4.12 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)Br)C(C)C | C27H33BrN2O10
